US03948925
69 g of bromine were added to a mixture of 69.2 g of 4-ethoxycarbonyl-4-thiazoline-2-one in 500 ml of chloroform and the mixture was refluxed for 20 hours. The mixture was distilled to dryness under reduced pressure and after the addition of isopropyl ether, the mixture was vacuum filtered to obtain 75.2 g of 5-bromo-4-ethoxycarbonyl-4-thiazoline-2-one melting at 121°C.

reactant | bromine | 69 g | BrBr | Br2
reactant | 4-ethoxycarbonyl-4-thiazoline-2-one | 69.2 g | C(C)OC(=O)C=1NC(SC1)=O | C6H7NO3S
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-bromo-4-ethoxycarbonyl-4-thiazoline-2-one | 75.2 g | BrC1=C(NC(S1)=O)C(=O)OCC | C6H6BrNO3S
